Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
___: Transcatheter Aortic Valve Replacement via bilateral 
groin access 

 
History of Present Illness:
Mr. ___ is a pleasant ___ year old man with a history of 
aortic stenosis, carotid artery stenosis, chronic obstructive 
pulmonary disease, hyperlipidemia, and hypertension. He was 
evaluated by the cardiac surgery service in ___ after he 
presented to the hospital with worsening dyspnea and chest pain. 
A CTA of the chest was negative for pulmonary embolism. An 
echocardiogram revealed aortic stenosis with an aortic valve 
area of 1 cm2 and ___ aortic insufficiency. Cardiac 
catheterization was significant for no obstructive coronary 
artery disease. At that time, he did not meet indication for 
surgical intervention. He has been closely followed by 
cardiology since that time. A
repeat echocardiogram in ___ of this year demonstrated 
progression of his aortic stenosis to severe. The aortic valve 
area was 0.7 cm2 with peak and mean gradients of 75 mmHg and 43 
mmHg, respectively. There was 2+ aortic insufficiency and 2+ 
tricuspid regurgitation.  He was seen by cardiac surgery and 
deemed High risk for conventional surgical AVR due to 
comorbidities. He reports symptoms continue with increase in 
fatigue. Referred for TAVR on ___.

___ Class: III

 
Past Medical History:
Alcohol Abuse
Anxiety
Aortic Stenosis
Benign Prostatic Hyperplasia
Carotid Artery Stenosis ___ left 50-69%, right <50%)
Chronic Obstructive Pulmonary Disease 
Esophageal Stricture s/p dilatation > ___ ago
Hearing Loss
Hyperlipidemia
Hypertension
Hyponatremia (baseline 134-136)
Pulmonary Nodules
Skin Cancer with XRT to top of head & chronic wound
Mohs surgery for skin ca
Bilat cataracts and detached retina repairs
Last esophageal dilation ___ ago  

 
Social History:
___
Family History:
There was no family history of stroke, diabetes, hypertension, 
___ disease.   His mother died at ___ of old age. 
His father died in his ___ of cancer. 

 
Physical Exam:
ADMISSION EXAM:
====================
VS: afebrile, 157/62, HR 68, RR 18, 02 at 98% 3L NC 
EKG: SB 50's
Tele:  SB 50's  
Gen: Lying on bed in PACU, alert, in NAD
Neuro: Awake alert and oriented x4.  Speech clear and 
appropriate
comprehensible.  Tongue midline.  Smile symmetric.  MAE equal 
and
strong bilaterally. PERRL @ 3mm.
HEENT: Neck supple, no lymphadenopathy appreciated.
CV: Regular rate and rhythm
Chest: LS clear to auscultate anteriorly.  Non-labored.  No use
of accessory muscles noted.
ABD: Round, soft, nontender positive BS x4.
Extr: Warm and well-perfused.  +1 palpable pedal pulses 
confirmed
by Doppler.
Skin: Intact, no rashes.
Access sites: ___ femoral access: left with small ooze noted post
procedure, right with bleeding post procedure requiring manual
pressure by ___, NP. Small amount of ecchymosis noted,
soft, no further bleeding; no bruit noted. 

DISCHARGE EXAM: 
======================
VS: Temp: 97.8 PO BP: 155/79 HR: 102 RR: 17 O2 sat: 93% RA 
Weight: 73.0 kg / 160.9 lbs. 

General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm 
Respiratory: Breathing non-labored, mild left sided expiratory
wheeze, otherwise clear to auscultation 
Abdomen: Soft, Non-tender, +BS 
Extremities: BLE warm/well-perfused, ___ pulses, no ___ edema 
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 
Access site: Bilateral groin access sites stable, soft and
non-tender to palpation. Minimal bruising to L groin, Moderate 
to
large area of bruising to right groin with no evidence of
hematoma and no active bleeding. 

 
Pertinent Results:
Labs:
====================
___ 10:24AM BLOOD WBC-8.8 RBC-3.10* Hgb-10.2* Hct-29.9* 
MCV-97 MCH-32.9* MCHC-34.1 RDW-13.6 RDWSD-48.0* Plt ___
___ 07:40AM BLOOD WBC-10.0 RBC-3.17* Hgb-10.6* Hct-31.1* 
MCV-98 MCH-33.4* MCHC-34.1 RDW-13.6 RDWSD-48.9* Plt ___
___ 07:30AM BLOOD WBC-9.5 RBC-3.26* Hgb-10.6* Hct-32.2* 
MCV-99* MCH-32.5* MCHC-32.9 RDW-13.6 RDWSD-48.9* Plt ___

___ 10:24AM BLOOD Glucose-122* UreaN-14 Creat-0.9 Na-135 
K-4.0 Cl-97 HCO3-25 AnGap-13
___ 07:40AM BLOOD Glucose-107* UreaN-12 Creat-0.8 Na-135 
K-4.1 Cl-95* HCO3-26 AnGap-14
___ 07:30AM BLOOD Glucose-106* UreaN-12 Creat-0.8 Na-137 
K-4.0 Cl-97 HCO3-26 AnGap-14 Calcium-9.1 Phos-3.5 Mg-2.1

--------------
ECHO ___:
--------------
LVEF  64%. 
The left atrial volume index is normal. 
The estimated right atrial pressure is ___ mmHg. 
Mild symmetric left ventricular hypertrophy with normal cavity 
size. 
There is normal regional left ventricular systolic function. 
Left ventricular cardiac index is normal (>2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. 
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. 
A ___ 3 aortic valve bioprosthesis is present. The prosthesis 
is well seated with normal leaflet motion and gradient. There is 
no aortic valve stenosis. The effective orifice area index is 
moderately reduced (0.65-0.90 cm2/m2). There is no aortic 
regurgitation. 
The mitral valve leaflets are mildly thickened with no mitral 
valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. There 
is mild [1+] tricuspid regurgitation. 
There is mild-moderate pulmonary artery systolic hypertension. 
There is no pericardial effusion.

IMPRESSION: Well seated, normal functioning ___ 3 TAVR with 
normal gradient and no aortic regurgitation. Mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global biventricular systolic function. Mild-moderate 
pulmonary artery systolic hypertension.

 
Brief Hospital Course:
 
 # Aortic Stenosis: s/p TAVR #26 ___ ___  
{HTN post-procedure controlled with Hydralazine. Right groin 
bleeding post procedure controlled by manual pressure without 
recurrent bleeding.} 
 - Anticoagulation plan: Aspirin and Plavix
 - Post-TAVR Echo showed well seated, normal functioning valve 
with Peak/Mean gradients ___ (improved from 75/43) and ___ 1.5 
(improved from 0.7) 
 - Continue home dose Lasix 60mg daily 
 - SBE Prophylaxis with Clindamycin x 6 months post procedure 
 - Outpatient f/u with PCP and ___ 

 # Hypertension: Elevated today at 156/71
 - Metoprolol Tartrate increased to 50mg TID today and 
tolerating well so on d/c can go back on home dose 150 XL daily 

 # COPD: Stable on home inhalers and O2 2L at night as per home 
regimen. 
 - Incentive spirometer 10x/hour while awake
 - Continue inhalers per home regimen

Follow Up: ___, ___ at ___ office ___ @ 2PM 
 Structural ___ Team will contact patient for follow up 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Atorvastatin 60 mg PO DAILY 
3. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
4. Furosemide 60 mg PO DAILY 
5. Metoprolol Succinate XL 150 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. Tiotropium Bromide 2 CAP IH DAILY 
8. Aspirin 81 mg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Clindamycin 600 mg PO ONCE Duration: 1 Dose 
Take 600mg once, one hour prior to procedure   
2.  Clopidogrel 75 mg PO DAILY  
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 60 mg PO DAILY  
6.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  
7.  Furosemide 60 mg PO DAILY  
8.  Metoprolol Succinate XL 150 mg PO DAILY  
9.  Tamsulosin 0.4 mg PO QHS  
10.  Tiotropium Bromide 2 CAP IH DAILY  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic Stenosis s/p TAVR ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a trans catheter aortic valve repair 
(TAVR) to treat your aortic valve stenosis which was done on 
___. 

 It is very important to take all of your ___ healthy 
medications. In particular, you are now taking aspirin and 
Plavix (Prescription sent electronically to your pharmacy). 
These medications help to prevent blood clots from forming on 
the new valve. If you stop these medications or miss ___ dose, you 
risk causing a blood clot forming on your new valve. This could 
cause it to malfunction and it may be life threatening. Please 
do not stop taking aspirin or Plavix without taking to your 
___ doctor, even if another doctor tells you to stop the 
medications.  

 You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure. One hour prior to your dental procedure take 
Clindamycin 600mg once. (Printed prescription provided that can 
be filled if needed). 

 Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your ___ doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 160.9 lbs.
 
 If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ HeartLine at ___ 
to speak to a cardiologist or cardiac nurse practitioner.  
 It has been a pleasure to have participated in your care and we 
wish you the best with your health.

 
Followup Instructions:
___